US03932429
0.35 g of 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo [3,2,1]octane is dissolved in 4 ml of pyridine, and a solution of 0.28 g of benzoyl chloride in 2 ml of benzene is added thereto under ice-cooling. The mixture is stirred for 45 minutes. Then, the mixture is concentrated under reduced pressure. The residue thus obtained is washed with ether and then recrystallized from a mixture of ethylacetate and acetone. 0.43 g of 1-(3-benzoyloxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrochloride is obtained. M.p. 207° - 209°C.

reactant | 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo [3,2,1]octane | 0.35 g | OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2 | C15H21NO
reactant | benzoyl chloride | 0.28 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 1-(3-benzoyloxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrochloride | 0.43 g | Cl.C(C1=CC=CC=C1)(=O)OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2 | InChI=1S/C22H25NO2.ClH/c1-16-22(13-7-11-19(15-22)23(16)2)18-10-6-12-20(14-18)25-21(24)17-8-4-3-5-9-17;/h3-6,8-10,12,14,16,19H,7,11,13,15H2,1-2H3;1H
